US08530477B2
7.1/8-Benzyl-spiro[8-azabicyclo[3.2.1]octane-3,2′-oxirane]
Trimethyl sulfoxonium iodide (3.07 g, 13.9 mmol) is placed in 18 ml of DMSO under nitrogen in the presence of sodium hydride dispersed at 60% in oil (0.56 g, 13.9 mmol). After stirring for 30 min at ambient temperature, 8-benzyl-8-aza-bicyclo[3.2.1]octan-3-one (2.0 g, 9.3 mmol) solubilized in 3 ml of DMSO is slowly added. The reaction medium is kept stirring for 4 h and then kept without stirring for 60 h, After hydrolysis, and extraction with ethyl acetate, the organic phase is washed with a saturated aqueous sodium chloride solution and dried over MgSO4. 2.04 g of 8-benzyl-spiro[8-azabicyclo[3.2.1]octane-3,2′-oxirane], subsequently used as it is, are obtained.

reactant | Trimethyl sulfoxonium iodide | 13.9 mmol, 3.07 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
reactant | 8-benzyl-8-aza-bicyclo[3.2.1]octan-3-one | 9.3 mmol, 2.0 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 18 ml | CS(=O)C | C2H6OS
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 8-Benzyl-spiro[8-azabicyclo[3.2.1]octane-3,2′-oxirane] | C(C1=CC=CC=C1)N1C2CC3(OC3)CC1CC2 | C15H19NO
